US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and p-iodoacetophenone, 1-(4-iodophenyl)-3-phenylprop-2-en-1-one was obtained as beige coloured solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-iodoacetophenone | IC1=CC=C(C=C1)C(C)=O | C8H7IO
product | 1-(4-iodophenyl)-3-phenylprop-2-en-1-one | IC1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C15H11IO
